US07816405B2
Methyl (2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionate
(2S)-3-(3-Hydroxyphenyl)-2-isopropoxypropionic acid tert-butylamine salt (8.2 kg, 28 mol) was dissolved in methanol (41 L), and then the reaction mixture was cooled to 10° C. Concentrated sulfuric acid (1.9 L, 36 mol) was added to the reaction mixture at 10 to 20° C. over a period of 5 minutes. The reaction mixture was stirred at 60° C. for 3 hours, followed by adding tert-butylmethyl ether (164 L) and a 10% sodium chloride solution (41 L) to separate an organic layer. Then, the organic layer was washed sequentially with the 10% sodium chloride solution (41 L), a 7% sodium bicarbonate aqueous solution (16 L), and water (41 L), followed by vacuum concentration to obtain 6.62 kg of the title compound (yield: 100%). The 1H-NMR data thereof coincided with that of the compound of Example 1-(5).

reactant | (2S)-3-(3-Hydroxyphenyl)-2-isopropoxypropionic acid tert-butylamine salt | 28 mol, 8.2 kg | C(C)(C)(C)N.OC=1C=C(C=CC1)C[C@@H](C(=O)O)OC(C)C
reactant | sulfuric acid | 36 mol, 1.9 L | S(O)(O)(=O)=O | H2O4S
reactant | tert-butylmethyl ether | 164 L | C(C)(C)(C)OC | C5H12O
solvent | methanol | 41 L | CO | CH4O
product | Methyl (2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionate | 6.62 kg, yield: 100% | OC=1C=C(C=CC1)C[C@@H](C(=O)OC)OC(C)C | C13H18O4
